** sch_path: /foss/designs/BTDay8-Ex/Test-Inverter_based.sch
**.subckt Test-Inverter_based
VDD VDD VSS 1.6
VIN VIN VSS DC 0.4 Ac -0.5 0
VIP VIP VSS DC 0.4 Ac 0.5 0
VSS VSS GND 0
VBIAS VBIAS VSS 0.2
VSS1 VCM GND 1
x1 net1 net2 VIP VIN VCMFBG VDD VSS VB1 AMP_INV_08V
x2 VB1 VBIAS VB2 VB3 VB4 VDD VSS AMP_BIAS_08V
x3 VCMFBG VCMFBL VDD VSS VB1 VCM VON VOP AMP_CMFB_INV_08V
x4 VON VOP net2 net1 VDD VSS VB1 AMP_CS_08V
**** begin user architecture code


.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

.control
op
save all
ac dec 100 1 10G

* Tinh tin hieu vi sai nguyen ban
let vod = v(vop) - v(von)
let gain = db(vod)
let phase = (180/pi) * cph(vod)

* Do tu dong Gain DC, UGB va Phase Margin
meas ac A0 MAX gain
meas ac f_ugb WHEN gain=0
meas ac p_at_ugb FIND phase WHEN gain=0
let PM = 180 + p_at_ugb
print A0 f_ugb PM

plot gain xlog title 'Voltage Gain (dB)'
plot phase xlog title 'Phase (deg)'
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/BTDay8-Ex/AMP_INV_08V.sym # of pins=8
** sym_path: /foss/designs/BTDay8-Ex/AMP_INV_08V.sym
** sch_path: /foss/designs/BTDay8-Ex/AMP_INV_08V.sch
.subckt AMP_INV_08V VOP VON VIP VIN VB3 VDD VSS VB1
*.iopin VDD
*.iopin VSS
*.opin VOP
*.opin VON
*.ipin VIN
*.ipin VIP
*.ipin VB3
*.ipin VB1
XM4 VOP VIN net2 VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM0 net1 VB1 VDD VDD sg13_lv_pmos w=8u l=0.7u ng=1 m=2 mm_ok=1
XM5 net2 VB3 VSS VSS sg13_lv_nmos w=4u l=0.7u ng=1 m=2 mm_ok=1
XM3 VON VIP net2 VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM2 VON VIP net1 VDD sg13_lv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XM1 VOP VIN net1 VDD sg13_lv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  /foss/designs/BTDay8-Ex/AMP_BIAS_08V.sym # of pins=7
** sym_path: /foss/designs/BTDay8-Ex/AMP_BIAS_08V.sym
** sch_path: /foss/designs/BTDay8-Ex/AMP_BIAS_08V.sch
.subckt AMP_BIAS_08V VB1 VBIAS VB2 VB3 VB4 VDD VSS
*.iopin VDD
*.iopin VSS
*.ipin VBIAS
*.opin VB1
*.opin VB2
*.opin VB3
*.opin VB4
XM6 VB1 VB1 VDD VDD sg13_lv_pmos w=15u l=0.7u ng=1 m=2 mm_ok=1
XM7 net1 VB1 VDD VDD sg13_lv_pmos w=15u l=0.7u ng=1 m=2 mm_ok=1
XM9 VB3 VB2 net1 VDD sg13_lv_pmos w=15u l=0.7u ng=1 m=2 mm_ok=1
XM10 net2 VBIAS VDD VDD sg13_lv_pmos w=1u l=4u ng=1 m=2 mm_ok=1
XM11 net2 net2 net3 VSS sg13_lv_nmos w=3u l=1u ng=1 m=1 mm_ok=1
XM12 VB2 net2 net4 VSS sg13_lv_nmos w=3u l=1u ng=1 m=1 mm_ok=1
XM13 net3 net3 VSS VSS sg13_lv_nmos w=3u l=1u ng=1 m=1 mm_ok=1
XM15 VB3 VB3 VB4 VSS sg13_lv_nmos w=7u l=0.7u ng=1 m=1 mm_ok=1
XM16 VB4 VB4 VSS VSS sg13_lv_nmos w=7u l=0.7u ng=1 m=1 mm_ok=1
XM8 VB2 VB2 VB1 VDD sg13_lv_pmos w=15u l=0.7u ng=1 m=2 mm_ok=1
XM14 net4 net3 VSS VSS sg13_lv_nmos w=3u l=1u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  /foss/designs/BTDay8-Ex/AMP_CMFB_INV_08V.sym # of pins=8
** sym_path: /foss/designs/BTDay8-Ex/AMP_CMFB_INV_08V.sym
** sch_path: /foss/designs/BTDay8-Ex/AMP_CMFB_INV_08V.sch
.subckt AMP_CMFB_INV_08V VCMFBG VCMFBL VDD VSS VB1 VCM VON VOP
*.ipin VCM
*.opin VCMFBL
*.opin VCMFBG
*.ipin VOP
*.ipin VB1
*.iopin VSS
*.iopin VDD
*.ipin VON
XM17 net2 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM18 net1 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM19 VCMFBG VOP net1 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM20 VCMFBL VCM net1 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM21 VCMFBL VCM net2 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM22 VCMFBG VON net2 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM23 VCMFBL VCMFBL VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
XM24 VCMFBG VCMFBL VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
.ends


* expanding   symbol:  /foss/designs/BTDay8-Ex/AMP_CS_08V.sym # of pins=7
** sym_path: /foss/designs/BTDay8-Ex/AMP_CS_08V.sym
** sch_path: /foss/designs/BTDay8-Ex/AMP_CS_08V.sch
.subckt AMP_CS_08V VOP VON VIP VIN VDD VSS VB1
*.iopin VDD
*.ipin VIN
*.ipin VIP
*.iopin VSS
*.ipin VB1
*.opin VOP
*.opin VON
XM1 VOP VB1 VDD VDD sg13_lv_pmos w=15u l=1u ng=1 m=1 mm_ok=1
XM2 VON VB1 VDD VDD sg13_lv_pmos w=15u l=1u ng=1 m=1 mm_ok=1
XM3 VOP VIN VSS VSS sg13_lv_nmos w=9u l=1u ng=1 m=1 mm_ok=1
XM4 VON VIP VSS VSS sg13_lv_nmos w=9u l=1u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
