 ** Top-level Testbench for Post-Layout Two-Stage OTA (9 PINS)
.param temp=27
.option nomod

* 1. Nguon cap va Tin hieu
vdd vdd GND DC 1.2
VIN vp GND DC 0.6 AC 1 0
I0 net1 GND 80u
Cload vout GND 500f
C1 vn GND 4G
L6 vout vn 4G

* 2. Goi x1 khop chinh xac 100% voi 9 chan cua Magic:
* Thu tu: v-  v+  dn4  vss  vdd  dn3  dn2  iout  vout
x1        vn  vp  dn4  GND  vdd  dn3  dn2  net1  vout  two_stage_OTA_layout

* 3. Thu vien PDK va Netlist PEX
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include /foss/designs/Klayout/Ex-2stageOTA/two_stage_OTA_layout.spice

* 4. Lenh mo phong AC va do dac tu dong
.control
op
save all
ac dec 100 1 100MEG

let Av = db(v(vout))
let phase = (180/pi) * cph(v(vout))

meas ac A0 MAX Av
meas ac f_ugb WHEN Av=0
meas ac p_at_ugb FIND phase WHEN Av=0
let PM = 180 + p_at_ugb

print A0 f_ugb PM

plot Av xlog title 'Post-Layout Voltage Gain (dB)'
plot phase xlog title 'Post-Layout Phase (deg)'
.endc
.end

