** sch_path: /foss/designs/BTDay4-Ex/Test.sch
**.subckt Test
VDD VDD VSS 1.2
VIN VIN VSS DC 0.6 Ac +0.5
VIP VIP VSS DC 0.6 AC -0.5
VB VB VSS 0.45
VSS VSS GND 0
C1 VOP VSS 100f
C2 VON VSS 100f
x1 VON VOP VIN VIP VB VDD VSS diff_diode_load
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.control
op
print v(vop) v(von)

ac dec 100 1 10G
let av_diff = v(vop) - v(von)
plot db(av_diff) title 'Differential Gain Ex2'
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/BTDay4-Ex/diff_diode_load.sym # of pins=7
** sym_path: /foss/designs/BTDay4-Ex/diff_diode_load.sym
** sch_path: /foss/designs/BTDay4-Ex/diff_diode_load.sch
.subckt diff_diode_load VON VOP VIN VIP VB VDD VSS
*.ipin VIN
*.ipin VIP
*.opin VON
*.opin VOP
*.ipin VB
*.iopin VDD
*.iopin VSS
XM1 VON VIP net1 VSS sg13_lv_nmos w=5u l=1u ng=1 m=1 mm_ok=1
XM2 VOP VIN net1 VSS sg13_lv_nmos w=5u l=1u ng=1 m=1 mm_ok=1
XM3 net1 VB VSS VSS sg13_lv_nmos w=5u l=0.35u ng=1 m=1 mm_ok=1
XM4 VON VON VDD VDD sg13_lv_pmos w=5u l=1u ng=1 m=1 mm_ok=1
XM5 VOP VOP VDD VDD sg13_lv_pmos w=5u l=1u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
