** sch_path: /foss/designs/TestDFF.sch
**.subckt TestDFF
x1 D q CLK vdd GND D_FlipFlop
VD D GND PULSE(0 1.2 2n 100p 100p 12n 25n)
VDD vdd GND 1.2
Vb CLK GND PULSE(0 1.2 0 100p 100p 5n 10n)
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.tran 10p 100n
.save all


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/LogicGate/D_FlipFlop.sym # of pins=5
** sym_path: /foss/designs/LogicGate/D_FlipFlop.sym
** sch_path: /foss/designs/LogicGate/D_FlipFlop.sch
.subckt D_FlipFlop D Q CLK VDD VSS
*.ipin D
*.ipin CLK
*.opin Q
*.iopin VDD
*.iopin VSS
xTG1 VDD CLK QM1 D CLKB VSS Tranmission
xTG2 VDD CLKB QS1 QM2 CLK VSS Tranmission
xTG_fb1 VDD CLKB QM1 net1 CLK VSS Tranmission
xTG_fb2 VDD CLK QS1 net2 CLKB VSS Tranmission
x1 VDD QM1 QM2 VSS inverter
x2 VDD QM2 net1 VSS inverter
x3 VDD QS1 Q VSS inverter
x4 VDD Q net2 VSS inverter
x5 VDD QM1 QM2 VSS inverter
x6 VDD CLK CLKB VSS inverter
.ends


* expanding   symbol:  /foss/designs/LogicGate/Tranmission.sym # of pins=6
** sym_path: /foss/designs/LogicGate/Tranmission.sym
** sch_path: /foss/designs/LogicGate/Tranmission.sch
.subckt Tranmission VDD ENB OUT IN EN VSS
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin VSS
*.ipin EN
*.ipin ENB
XXM1 OUT ENB IN VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XXM2 OUT EN IN VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  /foss/designs/BTDay6-Ex/inverter.sym # of pins=4
** sym_path: /foss/designs/BTDay6-Ex/inverter.sym
** sch_path: /foss/designs/BTDay6-Ex/inverter.sch
.subckt inverter VDD A Y VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XM1 Y A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 Y A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
