** sch_path: /foss/designs/BTDay6-Ex/TestGaw-CS_Ampli_Current.sch
**.subckt TestGaw-CS_Ampli_Current
C1 OUT GND 100f
x1 VBIAS VIN VDD OUT VSS CS_Ampli_Current
VDD1 VDD VSS 1.2
VSS VSS GND 0
VB2 VBIAS VSS 0.65
VIN1 VIN VSS DC 0.45 AC 1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.inc /foss/designs/Klayout/CS-Current.spice

.control
save all
op
ac dec 50 1k 10G
setplot ac1

* 1. XUAT FILE CHO PHAN MEM GAW DOC
write /foss/designs/simulations/Test-CS_Ampli_Current.raw

* 2. TINH TOAN SO LIEU
let gain_db = db(v(out))
let phase_deg = (180/pi) * cph(v(out))
let dc_gain_db = gain_db[0]
let open_loop_gain_times = mag(v(out)[0])
meas ac f_3db when gain_db=(dc_gain_db-3) fall=1
meas ac f_ug when gain_db=0 fall=1

echo ================= KET QUA EX2 POST-LAYOUT =================
echo 1. DC Gain (dB):
print dc_gain_db
echo 2. He so khuech dai (so lan):
print open_loop_gain_times
echo 3. Bang thong f_-3dB (Bandwidth):
print f_3db
echo 4. Tan so cat 0dB f_ug (GBW):
print f_ug
echo ============================================================

let line_0db = 0 * frequency
plot gain_db phase_deg line_0db xlog title 'Common-Source Post-Layout AC Response'
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
