** sch_path: /foss/designs/TestNAND.sch
**.subckt TestNAND
Va Va GND PULSE(0 1.2 0 1n 1n 9n 20n)
VDD vdd GND 1.2
Vb Vb GND PULSE(0 1.2 0 1n 1n 4n 10n)
x1 vdd Va vout Vb GND NOR2
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.tran 10p 50n
.save all


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/LogicGate/NOR2.sym # of pins=5
** sym_path: /foss/designs/LogicGate/NOR2.sym
** sch_path: /foss/designs/LogicGate/NOR2.sch
.subckt NOR2 VDD A Y B VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XXM1 net1 A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XXM2 Y B net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XXM3 Y A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XXM4 Y B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
