** sch_path: /foss/designs/BTDay2-Ex/Test_alpha.sch
**.subckt Test_alpha
VIN vin GND PULSE(0 1.2 0 1n 1n 4n 10n)
VDD vdd GND 1.2
x1 vdd vin vout GND Alpha
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.tran 10p 100n
.save all




.inc /foss/designs/Klayout/Alpha.spice


**** end user architecture code
**.ends
.GLOBAL GND
.end
